US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 20 mg, 0.046 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.031 mL, 0.278 mmol), (S)-2-amino-N-methylpropanamide-HCl (6.43 mg, 0.046 mmol), and HATU (31.7 mg, 0.083 mmol). The reaction mixture was stirred overnight and was then purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 50-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow rate=20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)-N-methyl(S)propanamide (9.6 mg, 0.019 mmol, 40.2% yield): LCMS=516.1 [M+H]+; 1H NMR (Mixture of Diastereomers, 400 MHz, methanol-d4) δ ppm 8.11-8.25 (4 H, m), 7.50-7.78 (14 H, m), 5.16 (2 H, d, J=3.08 Hz), 4.37 (2 H, qd, J=7.08, 1.43 Hz), 2.75 (3 H, s), 2.72 (3 H, s), 1.39 (3 H, d, J=7.26 Hz), 1.35 (3 H, d, J=7.04 Hz); Analytical LCMS: column: Mac-mod Halo C18, 4.6×50 mm, 2.7-μm particles; Mobile Phase A: 5:95 acetonitrile:water with 10 mM ammonium acetate; Mobile Phase B: 90:10 acetonitrile:water with 10 mM ammonium acetate; Temperature: 45° C.; Gradient: 0-100% B over 4 minutes, flow rate=4 mL/min, product retention=2.3 min+2.4 min (mixture of diastereomers).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.278 mmol, 0.031 mL | CN1CCOCC1 | C5H11NO
reactant | (S)-2-amino-N-methylpropanamide-HCl | 0.046 mmol, 6.43 mg | Cl.N[C@H](C(=O)NC)C
reactant | HATU | 0.083 mmol, 31.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-(2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)-N-methyl(S)propanamide | 0.019 mmol, 9.6 mg, 40.2% yield | OC(C(=O)N[C@H](C(=O)NC)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C24H20F3N5O5
